US04304774
B. 1-(1-Methyl-1H-tetrazol-5-ylmethyl)-5-chloro-1H-tetrazole
To a suspension of 1.75 g. (10 mmole) of 5-chloro-N-methyl-1H-tetrazol-1-acetamide, prepared as described under A above, in 50 ml. of methylene chloride containing 0.8 g. of pyridine and maintained at a temperature of about 0° C. was added with stirring excess phosgene. After addition was complete, the reaction mixture was stirred for 10 minutes without further cooling. The clear solution obtained on reaction was evaporated to dryness at a temperature of about 30° C. under reduced pressure. The residue containing the reaction product was suspended in 50 ml. of dioxane, and 2.4 g. (15.2 mmole) of tetramethylguanidinium azide were added to the suspension. The mixture was heated for 2 hours at the reflux temperature and after stirring overnight at room temperature, the reaction mixture was concentrated to near dryness under reduced pressure. The concentrate was dissolved in 30 ml. of water forming a pale yellow solution from which the product crystallized as colorless needles. The product was filtered and 0.4 g. of the crystalline product melting at about 138° C. to about 140° C. were obtained. A second crop of 0.5 g. of the product melting at about 136° C. to about 139° C. was isolated from the filtrate.

reactant | 5-chloro-N-methyl-1H-tetrazol-1-acetamide | 10 mmole | ClC1=NN=NN1CC(=O)NC | C4H6ClN5O
reactant | methylene chloride | 0.8 g | C(Cl)Cl | CH2Cl2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | tetramethylguanidinium azide | 15.2 mmole | [N-]=[N+]=[N-].CN(C(N(C)C)=[NH2+])C
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(1-Methyl-1H-tetrazol-5-ylmethyl)-5-chloro-1H-tetrazole | CN1N=NN=C1CN1N=NN=C1Cl | C4H5ClN8
